US04595677
8 g of Z-Ile-His-Lys(Boc)-OMe are suspended in a mixture of 80 ml of MeOH, 8 ml of H2O and 80 ml of trifluoroethanol, and hydrogenated with 800 mg of Pd-on-carbon (10% Pd) with CO2 -absorption until saturation, the initially undissolved material being dissolved. The catalyst is filtered off, the filtrate is concentrated to dryness and the resinous residue is crystallised from acetonitrile, yielding H-Ile-His-Lys(Boc)-OMe in the form of needles having a melting point of 129°-130°; Rf (I)=0.12; Rf (B)=0.14.

reactant | Z-Ile-His-Lys(Boc)-OMe | 8 g | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C32H48N6O8
reactant | H2O | 8 ml | O | H2O
reactant | trifluoroethanol | 80 ml | C(C(F)(F)F)O | C2H3F3O
reactant | CO2 | C(=O)=O | CO2
solvent | MeOH | 80 ml | CO | CH4O
product | H-Ile-His-Lys(Boc)-OMe | N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC | C24H42N6O6
